US08110580B2
N-{5-[7-(1-Ethyl-propyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-3-yl]-4-methyl-thiophen-2-yl}acetamide
Dissolve 3-(5-nitro-3-methyl-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (0.33 g, 0.92 mmol) in THF (10 mL) with 10% palladium on carbon (0.10 g), degas with vacuum/hydrogen atmosphere flush (3×) and stir under a hydrogen atmosphere (55 psi) at room temperature for 3 h. Confirm the reaction is complete using TLC. Dilute the reaction with THF (50 mL) and filter through diatomaceous earth, followed by concentration to a crude orange oil (0.328 g). Dissolve the oil in dichloromethane (4 mL) and 1.0 M NaOH (1 mL). Add acetyl chloride (0.038 mL, 0.52 mmol) to the reaction and stir in a sealed reaction vessel at room temperature over the weekend. Dilute the reaction with dichloromethane (100 mL) and wash with water. Collect the organic phase, dry over anhydrous magnesium sulfate, filter, and concentrate to a red oil under reduced pressure. Purify the oil using flash chromatography, eluting with 100% hexane/0% (15% ethyl acetate/10% 7 N ammoniated methanol/75% hexane) to 0% hexane/100% (15% ethyl acetate/10% 7 N ammoniated methanol/75% hexane) in a step gradient of 10% increments to give a brown foam (0.048 g, 26%). ES/MS m/z 371.0 (M+1)+.

reactant | 3-(5-nitro-3-methyl-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 0.92 mmol, 0.33 g | [N+](=O)([O-])C1=CC(=C(S1)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C)C | C18H22N4O2S
reactant | acetyl chloride | 0.52 mmol, 0.038 mL | C(C)(=O)Cl | C2H3ClO
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
product | N-{5-[7-(1-Ethyl-propyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-3-yl]-4-methyl-thiophen-2-yl}acetamide | 0.048 g, 26% | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(C=C(S2)NC(C)=O)C)C)C | C20H26N4OS
